US07378409B2
Preparation D12, Step 1: A mixture of 2-amino-5-bromobenzoic acid (5.7 g, 24.78 mmol) and formamidine acetate (5.2 g, 49.5 mmol) in 2-ethoxyethanol (50 mL) was heated at reflux for 4 h. The reaction was cooled to room temperature, allowed to stand overnight, then diluted with diethyl ether (20 mL) to further precipitate the product. The solids were collected by filtration, rinsed with 2-ethoxyethanol (10 mL), diethyl ether (2×50 mL), and air dried to yield 4.4 g of 6-bromoquinazolin-4-ol as a tan solid. MS (ES+)=225/227 (M+H+).

reactant | 2-amino-5-bromobenzoic acid | 24.78 mmol, 5.7 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | formamidine acetate | 49.5 mmol, 5.2 g | C(C)(=O)O.C(=N)N
solvent | 2-ethoxyethanol | 50 mL | C(C)OCCO | C4H10O2
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
product | 6-bromoquinazolin-4-ol | 4.4 g | BrC=1C=C2C(=NC=NC2=CC1)O | C8H5BrN2O
